US09328110B2
A mixture of N4-[4-(tert-butyldimethylsilanyloxy)butyl]quinoline-3,4-diamine (101 g, 293 mmol) and triethyl orthoformate (43.4 g, 293 mmol) in toluene (200 mL) was heated at reflux for 2 hours and then concentrated under reduced pressure to provide 1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline as an oil that was used directly in the next step without further purification.

reactant | N4-[4-(tert-butyldimethylsilanyloxy)butyl]quinoline-3,4-diamine | 293 mmol, 101 g | [Si](C)(C)(C(C)(C)C)OCCCCNC1=C(C=NC2=CC=CC=C12)N | C19H31N3OSi
reactant | triethyl orthoformate | 293 mmol, 43.4 g | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(tert-butyldimethylsilanyloxy)butyl]-1H-imidazo[4,5-c]quinoline | [Si](C)(C)(C(C)(C)C)OCCCCN1C=NC=2C=NC=3C=CC=CC3C21 | C20H29N3OSi
